US06861424B2
To a solution of 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-2-(2-hydroxyphenyl)ethyl]aminocarbonyl-4-methoxyquinoline (380 mg, 0.75 mmol) in CH2Cl2 cooled to −30° C. was added triethylamine (0.12 mL, 1.12 mmol) and dimethylamino pyridine (20 mg, 1.6 mmol) and the reaction mixture was stirred for 10 minutes. Triflouromethanesulfonic anhydride (0.19 mL, 1.12 mmol) was added and the reaction mixture was slowly warmed to ambient temperature. The solvent was evaporated under reduced pressure and residue was purified by flash chromatography (ethyl acetate:hexane-30:70) to afford 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-2-(2-(trifluoromethylsulfonyl)oxyphenyl)ethyl]aminocarbonyl-4-methoxyquinoline as a yellow oil (320 mg).

reactant | 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-2-(2-hydroxyphenyl)ethyl]aminocarbonyl-4-methoxyquinoline | 0.75 mmol, 380 mg | C(C)OC(=O)N1CCN(CC1)C(=O)C(CC1=C(C=CC=C1)O)NC(=O)C1=NC2=CC=CC=C2C(=C1)OC | C27H30N4O6
reactant | triethylamine | 1.12 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylamino pyridine | 1.6 mmol, 20 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | Triflouromethanesulfonic anhydride | 1.12 mmol, 0.19 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-2-(2-(trifluoromethylsulfonyl)oxyphenyl)ethyl]aminocarbonyl-4-methoxyquinoline | 320 mg | C(C)OC(=O)N1CCN(CC1)C(=O)C(CC1=C(C=CC=C1)OS(=O)(=O)C(F)(F)F)NC(=O)C1=NC2=CC=CC=C2C(=C1)OC | C28H29F3N4O8S
